US05736548
A mixture of 3-(4-pyridinylmethoxy)benzonitrile (2.5 g, 0.012 mol) in 75% formic acid (35 ml) was treated with raney nickel (2 g) and heated to reflux for 4 hours. The reaction mixture was filtered through SUPERCELL®, the filtrate was brought to a pH of 8-9 with 5N NaOH, extracted with EtOAc (3×150 ml) and the combined organic layers were dried over MgSO4, filtered and stripped. The residue was purified by column chromatography on silica gel eluting with EtOAc (100%) to afford 0.94 g (37%) of 3-(4-pyridinylmethoxy)benzaldehyde.

reactant | 3-(4-pyridinylmethoxy)benzonitrile | 0.012 mol, 2.5 g | N1=CC=C(C=C1)COC=1C=C(C#N)C=CC1 | C13H10N2O
reactant | formic acid | 35 ml | C(=O)O | CH2O2
catalyst | raney nickel | 2 g | [Ni] | Ni
product | 3-(4-pyridinylmethoxy)benzaldehyde | 0.94 g, 37% | N1=CC=C(C=C1)COC=1C=C(C=O)C=CC1 | C13H11NO2
